US07842685B2
Synthesis of 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethanamine
To 2-(2-fluoro-4-(2-nitrovinyl)phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (0.788 g, 1.89 mmol) was added THF (9.44 mL), methanol (9.44 mL), water (9.44 mL), and acetic acid (9.44 mL) before zinc (0.987 g, 15.1 mmol) was added. The reaction mixture was heated to 65° C. for 18 h. The reaction mixture was concentrated, neutralized with aq NaHCO3, and extracted with DCM. The organic layer was concentrated, filtered, washed with water, and dried in a vacuum oven to give the title compound after purification via preparatory LC. MS (ESI) m/z: Calculated: 389.1; Observed: 380.1 (M++H).

reactant | 2-(2-fluoro-4-(2-nitrovinyl)phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 1.89 mmol, 0.788 g | FC1=C(C=CC(=C1)C=C[N+](=O)[O-])C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H16FN3O2S
reactant | THF | 9.44 mL | C1CCOC1 | C4H8O
reactant | methanol | 9.44 mL | CO | CH4O
reactant | water | 9.44 mL | O | H2O
catalyst | zinc | 15.1 mmol, 0.987 g | [Zn] | Zn
solvent | acetic acid | 9.44 mL | C(C)(=O)O | C2H4O2
product | 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethanamine | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCN | C23H20FN3S
